US07632838B2
3,5-dichloro-4-{4-[(4-chlorophenyl)sulfonyl]piperidin-1-yl}pyridine
Using the procedure from Example 7A, 4-[(4-chlorophenyl)sulfonyl]piperidine (100 mg, 0.38 mmol) was reacted with 3,4,5-trichloropyridine (141 mg, 0.76 mmol), DIEA (0.27 ml, 1.52) and 1,4-dioxane (0.3 ml) at 190° C. to afford the title compound (51 mg), a white solid, in 33% yield.

reactant | 4-[(4-chlorophenyl)sulfonyl]piperidine | 0.38 mmol, 100 mg | ClC1=CC=C(C=C1)S(=O)(=O)C1CCNCC1 | C11H14ClNO2S
reactant | 3,4,5-trichloropyridine | 0.76 mmol, 141 mg | ClC=1C=NC=C(C1Cl)Cl | C5H2Cl3N
reactant | DIEA | 0.27 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | 1,4-dioxane | 0.3 ml | O1CCOCC1 | C4H8O2
product | 3,5-dichloro-4-{4-[(4-chlorophenyl)sulfonyl]piperidin-1-yl}pyridine | 51 mg, 33% yield | ClC=1C=NC=C(C1N1CCC(CC1)S(=O)(=O)C1=CC=C(C=C1)Cl)Cl | C16H15Cl3N2O2S
